US04521559
2-(3,5-ditert.-butyl-4-hydroxybenzyl)phenol;
2-(3,5-ditert.-butyl-4-hydroxybenzyl)-5-methylphenol and 2-(3,5-ditert.-butyl-4-hydroxybenzyl)-4-isopropylphenol;

reactant | 2-(3,5-ditert.-butyl-4-hydroxybenzyl)-5-methylphenol | C(C)(C)(C)C=1C=C(CC2=C(C=C(C=C2)C)O)C=C(C1O)C(C)(C)C | C22H30O2
reactant | 2-(3,5-ditert.-butyl-4-hydroxybenzyl)-4-isopropylphenol | C(C)(C)(C)C=1C=C(CC2=C(C=CC(=C2)C(C)C)O)C=C(C1O)C(C)(C)C | C24H34O2
product | 2-(3,5-ditert.-butyl-4-hydroxybenzyl)phenol | C(C)(C)(C)C=1C=C(CC2=C(C=CC=C2)O)C=C(C1O)C(C)(C)C | C21H28O2
